datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]#[C:3][C:4]([H:6])([H:7])[H:8])[H:5].[C:9]([C:10]([H:13])([H:14])[H:15])([H:11])[H:12]>>[C:0](#[C:1][C:2](=[C:3][C:4]([H:6])([H:7])[H:8])[C:9]([C:10]([H:13])([H:14])[H:15])([H:11])[H:12])[H:5],34.267
[C:0](=[C:1]([C:2](=[C:3]([C:4]1([H:15])[C:5]([H:16])[C:6]([H:17])=[C:7]([H:18])[C:8]([H:19])=[C:9]1[H:20])[H:14])[H:13])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2](=[C:3][H:14])[H:13])[H:12])([H:10])[H:11].[c:4]1([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]([H:19])[c:9]1[H:20],95.8136
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[H:9])[H:8])[H:7])([H:5])[H:6].[C:13]([C:14]([C:15]([H:25])([H:26])[H:27])[c:16]1[c:17]([H:28])[c:18]([H:29])[c:19]([H:30])[c:20]([H:31])[c:21]1[H:32])([H:22])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])[H:9])([H:8])[C:14]([C:13]([H:22])([H:23])[H:24])([C:15]([H:25])([H:26])[H:27])[c:16]1[c:17]([H:28])[c:18]([H:29])[c:19]([H:30])[c:20]([H:31])[c:21]1[H:32])[H:7])([H:5])[H:6],39.6643
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7]([C:8]([C:9]([H:20])([H:21])[H:22])[C:10]([H:23])([H:24])[H:25])([H:18])[H:19])[H:11]>>[C:0](#[C:1][C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7]([H:18])([H:19])[C:8]1([C:9]([H:20])([H:21])[H:22])[C:10]([H:23])([H:24])[H:25])[H:11],135.311
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[H:9])[H:8])[H:7])([H:5])[H:6].[C:13]([C:14](=[C:15]([C:16](=[C:17]([C:18]([H:26])([H:27])[H:28])[H:25])[H:24])[H:23])[H:22])([H:19])([H:20])[H:21]>>[C:0](=[C:1]([C:2]1([H:8])[C:3]([C:4]([H:10])([H:11])[H:12])([H:9])[C:17]([C:18]([H:26])([H:27])[H:28])([H:25])[C:16]([H:24])=[C:15]([H:23])[C:14]1([C:13]([H:19])([H:20])[H:21])[H:22])[H:7])([H:5])[H:6],69.831
[C:0](#[C:1][H:3])[H:2].[O:4]=[C:5]1[C:6]([H:10])=[C:7]([H:11])[C:8]([H:12])[O:9]1>>[C:0](=[C:1][H:3])([H:2])[C:8]1([H:12])[C:7]([H:11])=[C:6]([H:10])[C:5](=[O:4])[O:9]1,65.349896
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5]([C:6]([C:7]([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])[H:9])[H:8]>>[C:0](#[C:1][C:2]([C:3]1([H:10])[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[C:6]([H:15])([H:16])[C:7]1([H:17])[H:18])[H:9])[H:8],16.4431
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([C:3]([H:10])([H:11])[H:12])[H:6])([H:4])[H:5].[C:13]#[C:14][H:15]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([H:10])([H:11])[H:12])([H:4])[H:5].[H:6][C:13]#[C:14][H:15],0.0
[C:0](=[C:1]([C:2]([O:3][O:4])([H:8])[H:9])[H:7])([H:5])[H:6]>>[C:0](=[C:1]([C:2]([O:3][O:4][H:8])[H:9])[H:7])([H:5])[H:6],159.41
[C:5]([H:6])([H:7])[H:8].[S:0]([S:1][S:2][H:4])[H:3]>>[H:3].[S:0]([S:1][S:2][H:4])[C:5]([H:6])([H:7])[H:8],62.76
[C:0]([H:1])([H:2])[H:3].[N:4][H:5]>>[C:0]([H:1])([H:2])([H:3])[H:5].[N:4],188.129
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])=[O:3])([H:4])([H:5])[H:6].[O:10][O:11][H:12]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([O:3])[O:10][O:11][H:12])([H:4])([H:5])[H:6],94.7258
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:22])([H:23])[H:24])[C:10]([H:25])([H:26])[H:27])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])[H:15])[H:11]>>[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])[C:4]1([H:15])[C:5]([H:16])([H:17])[C:6]([H:18])([H:19])[C:7]([H:20])([H:21])[C:8]1([C:9]([H:22])([H:23])[H:24])[C:10]([H:25])([H:26])[H:27])[H:11],16.736
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[S:4][H:9])[H:5].[C:10]([C:11]([C:12]([H:18])([H:19])[H:20])([H:16])[H:17])([H:13])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([S:4][H:9])[H:16])[H:5].[C:10]([C:11]([C:12]([H:18])([H:19])[H:20])[H:17])([H:13])([H:14])[H:15],71.9648
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[O:35]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])[H:15])([H:11])([H:12])[H:13].[H:14][O:35],7.397312
[C:0](#[C:1][C:2]=[C:3]([H:5])[H:6])[H:4].[C:7](=[C:8]([H:11])[H:12])([H:9])[H:10]>>[C:0](#[C:1][C:2](=[C:3]([H:5])[H:6])[H:9])[H:4].[C:7](=[C:8]([H:11])[H:12])[H:10],46.4424
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[C:11](=[S:12])([H:13])[H:14]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[H:13])[H:6])([H:4])[H:5].[C:11](=[S:12])[H:14],123.093
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[C:11]([C:12]([C:13]([H:24])([H:25])[H:26])=[C:14]([c:15]1[c:16]([H:28])[c:17]([H:29])[c:18]([H:30])[c:19]([H:31])[c:20]1[H:32])[H:27])([H:21])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[C:14]([C:12]([C:11]([H:21])([H:22])[H:23])[C:13]([H:24])([H:25])[H:26])([c:15]1[c:16]([H:28])[c:17]([H:29])[c:18]([H:30])[c:19]([H:31])[c:20]1[H:32])[H:27])[H:6])([H:4])[H:5],58.1158
